US04855086
A mixture of 3-(trifluoromethyl)benzaldehyde (25 g, 144 mmol), malonic acid (28.8 g, 277 mmol), anhydrous pyridine (100 ml) and piperidine (2 ml) was heated under reflux for 4 hours. The mixture was poured onto fresh ice (300 g) and concentrated hydrochloric acid (78 ml). The solid product was collected, dried and recrystallised (1:1 IMS/water) to give 30 g (96% of theory) of 3-(trifluoromethyl) cinnamic acid as off-white needles.

reactant | 3-(trifluoromethyl)benzaldehyde | 144 mmol, 25 g | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | malonic acid | 277 mmol, 28.8 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 78 ml | Cl | ClH
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-(trifluoromethyl) cinnamic acid | 30 g, 96% | FC(C=1C=C(C=CC(=O)O)C=CC1)(F)F | C10H7F3O2
